US09303033B2
To 5-(3-chloro-4-fluorophenylamino)-7-(cyclopropylmethylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde (40 mg, 0.09 mmol) in 1.0 mL of ethanol was added hydantoin (9 mg, 0.09 mmol) and piperidine (8 ul). The reaction was heated at 80° C. overnight, cooled to room temperature, filtered, and washed with ethanol to yield 20 mg (31% yield) (Z)-5-((5-(3-chloro-4-fluorophenylamino)-7-(cyclopropylmethylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene) imidazolidine-2,4-dione as a yellow powder. LCMS (M+1=442)

reactant | 5-(3-chloro-4-fluorophenylamino)-7-(cyclopropylmethylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 0.09 mmol, 40 mg | ClC=1C=C(C=CC1F)NC1=NC=2N(C(=C1)NCC1CC1)N=CC2C=O | C17H15ClFN5O
reactant | hydantoin | 0.09 mmol, 9 mg | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | piperidine | 8 ul | N1CCCCC1 | C5H11N
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | (Z)-5-((5-(3-chloro-4-fluorophenylamino)-7-(cyclopropylmethylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene) imidazolidine-2,4-dione | 20 mg, 31% yield | ClC=1C=C(C=CC1F)NC1=NC=2N(C(=C1)NCC1CC1)N=CC2\C=C/2\C(NC(N2)=O)=O | C20H17ClFN7O2
